US07868030B2
i) 2-(2-Methoxy-ethoxy)-3-methyl-thiophene
2-methoxy-3-methyl-thiophene, (1.5 g, 11.7 mmol) 2-methoxy-ethanol (3.8 g, 50.5 mmol, 4.3 equiv.) and sodium hydrogen sulfate anhydrous (100 mg, 0.833 mmol, 0.07 equiv.) were stirred in toluene at 120° C. for 3.5 hours. The mixture was diluted with ethyl acetate and extracted with sodium bicarbonate solution. The organic solvent washed with brine, dried over magnesium sulfate dihydrate, filtered and evaporated. After Kugelrohr distillation, 980 mg of the title compound were obtained as a light yellow oil GC-MS (EI) M=172.

reactant | 2-methoxy-3-methyl-thiophene | 11.7 mmol, 1.5 g | COC=1SC=CC1C | C6H8OS
reactant | 2-methoxy-ethanol | 50.5 mmol, 3.8 g, 4.3 equiv. | COCCO | C3H8O2
reactant | sodium hydrogen sulfate | 0.833 mmol, 100 mg, 0.07 equiv. | S(=O)(=O)(O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Methoxy-ethoxy)-3-methyl-thiophene | 980 mg | COCCOC=1SC=CC1C | C8H12O2S
